US09085555B2
(1-Carbamoyl-3-{[(1R,3S,5R)-3-(2-fluoro-benzylcarbamoyl)-2-aza-bicyclo[3.1.0]hexane-2-carbonyl]-amino}-1H-indol-5-yloxy)-acetic acid
To (1-carbamoyl-3-{[(1R,3S,5R)-3-(2-fluoro-benzylcarbamoyl)-2-aza-bicyclo[3.1.0]hexane-2-carbonyl]-amino}-1H-indol-5-yloxy)-acetic acid tert-butyl ester Example 390 (18 mg, 0.032 mmol) in CH2Cl2 (0.5 mL) was added TFA (97 μL, 1.27 mmol) and the mixture was stirred at RT overnight. Then concentrated, taken up in CH2Cl2 and filtered-off to give the desired material which was further dried under high vacuum. MS (LC-MS): 510.1 [M+H]+, 532.2 [M+Na]+, 508.1 [M−H]−, 465.1 [M−CONH2]−; tR (HPLC conditions f): 1.52 min.

reactant | (1-carbamoyl-3-{[(1R,3S,5R)-3-(2-fluoro-benzylcarbamoyl)-2-aza-bicyclo[3.1.0]hexane-2-carbonyl]-amino}-1H-indol-5-yloxy)-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC=1C=C2C(=CN(C2=CC1)C(N)=O)NC(=O)N1[C@@H]2C[C@@H]2C[C@H]1C(NCC1=C(C=CC=C1)F)=O)=O | C29H32FN5O6
reactant | TFA | 1.27 mmol, 97 μL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
product | (1-Carbamoyl-3-{[(1R,3S,5R)-3-(2-fluoro-benzylcarbamoyl)-2-aza-bicyclo[3.1.0]hexane-2-carbonyl]-amino}-1H-indol-5-yloxy)-acetic acid | C(N)(=O)N1C=C(C2=CC(=CC=C12)OCC(=O)O)NC(=O)N1[C@@H]2C[C@@H]2C[C@H]1C(NCC1=C(C=CC=C1)F)=O | C25H24FN5O6
